US09428459B2
2-(difluoromethyl)-N-(6,6-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-methylpyridine-3-carbothioamide (Example 17)
In a microwave sealable tube, P2S5 (36 mg, 0.164 mmol, 0.5 eq) is added to a solution of 2-(difluoromethyl)-N-(6,6-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-methylnicotinamide (113 mg, 0.32 mmol, 1 eq) in 3 ml of dioxane. The tube is sealed and the reaction is microwaved 20 min at 130° C. The resulting solution is filtered through alumina and washed with dioxane. The solvent is evaporated and the residue purified by chromatography on silica gel to give pure material (91%)

reactant | P2S5 | 0.164 mmol, 36 mg, 0.5 eq | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 2-(difluoromethyl)-N-(6,6-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-methylnicotinamide | 0.32 mmol, 113 mg, 1 eq | FC(C1=C(C(=O)NC2=CC=CC=3CC(CCC23)(C)C)C=C(C=N1)C)F | C20H22F2N2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-(difluoromethyl)-N-(6,6-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-methylpyridine-3-carbothioamide | 91% | FC(C1=NC=C(C=C1C(NC1=CC=CC=2CC(CCC12)(C)C)=S)C)F | C20H22F2N2S
